data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
978,1062,[CH3:16][C:17]#[N+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:19]([C:20]#[N:21])([C:22]([CH3:23])=[O:24])[N:18]=[C:17]2[CH3:16],water,298.15,23.12644355113355,-28.705882458240627
2176,2414,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([CH3:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[c:24]1[nH+:25][c-:26]([C:27]#[N:28])[c:29](=[O:30])[o:31]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([CH3:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]1([C:22]([O:21][CH3:20])=[O:23])[NH:25][C:26]2([C:27]#[N:28])[C:29](=[O:30])[O:31]1,water,298.15,19.35059305835171,-16.88105055257566
3205,3619,[CH3:10][c-:11]1[o+:12][n:13][o:14][c:15]1=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:11]2([CH3:10])[O:12][N:13]1[O:14][C:15]2=[O:16],water,298.15,19.861802223021648,-12.28054850655476
5169,5867,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28]([CH3:29])=[O:30]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:28]([CH3:29])=[O:30])[NH:16][C:17]2([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,24.0100872561168,-11.370652071352929
2331,2589,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17](=[O:18])[NH:19][CH3:20])=[N+:21]([CH3:22])[C-:23]([C:24](=[O:25])[NH:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:23]([C:24](=[O:25])[NH:26][CH3:27])([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[N:21]([CH3:22])[C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:17](=[O:18])[NH:19][CH3:20],water,298.15,41.651136602538976,-10.560755401259788
3918,4482,[CH3:9][NH:10][C:11](=[O:12])[c:13]1[o:14][c:15](=[O:16])[c-:17]([C:18]#[N:19])[n+:20]1[CH3:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:17]2([C:18]#[N:19])[C:15](=[O:16])[O:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[N:20]2[CH3:21],water,298.15,27.33624124215963,-4.22578936271846
3189,3599,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][O-:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[O:16][N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,23.519283889548067,-21.08921508977732
2753,3059,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][C:21]([C:22]#[N:23])=[N+:24]([CH3:25])[N-:26][c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]2=[C:12]([C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[N:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:24]([CH3:25])[C:21]2([CH3:20])[C:22]#[N:23],water,298.15,24.70769519717368,-19.37771636686005
2161,2397,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14](=[O:15])[O:16][CH3:17])=[N+:18]([CH3:19])[C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:18]([CH3:19])[C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:14](=[O:15])[O:16][CH3:17],water,298.15,42.36920881110742,-24.10726161336451
3401,3868,[CH3:9][O:10][C:11](=[O:12])[C-:13]([N+:14]#[N:15])[C:16]([CH3:17])=[O:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:16]([CH3:17])=[O:18])[N:14]=[N:15]1,water,298.15,31.82860185431054,-0.7415779632876391
283,307,[CH3:1][O:2][C:3]#[C:4][Cl:5].[CH3:6][NH:7][C:8](=[O:9])[C-:10]([N+:11]#[C:12][C:13]([CH3:14])=[O:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([C:16]([CH3:17])=[O:18])[N:11]=[C:12]1[C:13]([CH3:14])=[O:15],water,298.15,23.12912722724849,-63.23665762178239
